* Hand-crafted subcircuit for DFFx1
* 16T positive-edge-triggered D flip-flop (master-slave with TGs)
* Process: ASAP5 5nm GAA Nanosheet, Lg=16nm, CPP=44nm, VDD=0.7V
* Model: BSIM-CMG level=107 (Xyce), nfin=2 per device
* Cell: 4 CPP x 140nm (176nm x 140nm estimated)
* Topology: INV_CLK + TG1 + INV1 + TG2 + INV2 + INV_OUT
* Total: 16 transistors (8 NMOS + 8 PMOS)
*
* D ──[TG1]──┬── M ──[TG2]──┬──[INV_OUT]── Q
*            [INV1]         [INV2]
* CLK ──[INV_CLK]── CLKb
*
* TG1 transparent when CLK=0: NMOS gate=CLKb, PMOS gate=CLK
* TG2 transparent when CLK=1: NMOS gate=CLK, PMOS gate=CLKb
*

.subckt DFFx1 D CLK Q VDD VSS
*
* Internal nodes: CLKb, ML (master latch), MI (master inv), SL (slave latch), SI (slave inv)
*
* --- INV_CLK: CLK buffer inverter (2T) ---
mn_clk CLKb CLK VSS VSS nmos_lvt l=16n nfin=2
mp_clk CLKb CLK VDD VDD pmos_lvt l=16n nfin=2
*
* --- TG1_fwd: master forward pass gate (2T) ---
* Transparent when CLK=0 (CLKb=1): passes D to ML
* NMOS gate=CLKb, PMOS gate=CLK
mn_tg1f D CLKb ML VSS nmos_lvt l=16n nfin=2
mp_tg1f D CLK  ML VDD pmos_lvt l=16n nfin=2
*
* --- INV1: master latch inverter (2T) ---
mn_inv1 MI ML VSS VSS nmos_lvt l=16n nfin=2
mp_inv1 MI ML VDD VDD pmos_lvt l=16n nfin=2
*
* --- TG1_fb: master feedback pass gate (2T) ---
* Transparent when CLK=1 (CLKb=0): feeds MI back to ML, holds master
* NMOS gate=CLK, PMOS gate=CLKb
mn_tg1b MI CLK  ML VSS nmos_lvt l=16n nfin=2
mp_tg1b MI CLKb ML VDD pmos_lvt l=16n nfin=2
*
* --- TG2_fwd: slave forward pass gate (2T) ---
* Transparent when CLK=1 (CLKb=0): passes MI to SL
* NMOS gate=CLK, PMOS gate=CLKb
mn_tg2f MI CLK  SL VSS nmos_lvt l=16n nfin=2
mp_tg2f MI CLKb SL VDD pmos_lvt l=16n nfin=2
*
* --- INV2: slave latch inverter (2T) ---
mn_inv2 SI SL VSS VSS nmos_lvt l=16n nfin=2
mp_inv2 SI SL VDD VDD pmos_lvt l=16n nfin=2
*
* --- TG2_fb: slave feedback pass gate (2T) ---
* Transparent when CLK=0 (CLKb=1): feeds SI back to SL, holds slave
* NMOS gate=CLKb, PMOS gate=CLK
mn_tg2b SI CLKb SL VSS nmos_lvt l=16n nfin=2
mp_tg2b SI CLK  SL VDD pmos_lvt l=16n nfin=2
*
* --- INV_OUT: output buffer inverter (2T) ---
mn_out Q SL VSS VSS nmos_lvt l=16n nfin=2
mp_out Q SL VDD VDD pmos_lvt l=16n nfin=2
*
* --- Estimated parasitic capacitances ---
* Based on ASAP5 extracted cell scaling (INVx1, XOR2x1, MUX21x1)
* Input pins: ~0.9fF (D: TG1_fwd S/D; CLK: INV_CLK gate + 4 TG gates)
* CLKb: ~2.1fF (INV_CLK output, drives 4 TG gates: tg1f, tg1b, tg2f, tg2b)
* ML: ~1.8fF (TG1_fwd output + TG1_fb output + INV1 gate, contended node)
* MI: ~1.8fF (INV1 output + TG1_fb input + TG2_fwd input)
* SL: ~2.0fF (TG2_fwd output + TG2_fb output + INV2 gate + INV_OUT gate)
* SI: ~1.3fF (INV2 output + TG2_fb input)
* Q:  ~1.2fF (INV_OUT output)
*
Cext_D    D    0  0.8624f
Cext_CLK  CLK  0  0.9200f
Cext_CLKb CLKb 0  2.1180f
Cext_ML   ML   0  1.8120f
Cext_MI   MI   0  1.8120f
Cext_SL   SL   0  2.0240f
Cext_SI   SI   0  1.2936f
Cext_Q    Q    0  1.2064f
.ends DFFx1
